US06207669B1
N-[2-(Methanesulphonamido)ethyl]acetamide
N-Acetylethylenediamine (10.2 g, 100 mmol) and triethylamine (15 ml, 10.9 g, 108 mmol) were dissolved in dichloromethane (300 ml) and the solution cooled to 0° C. Methanesulphonyl chloride (8 ml, 11.8 g, 103 mmol) was dissolved in dichloromethane (10 ml) and added dropwise, and stirring was continued at 0° C. for 3 hours. The dichloromethane was removed in vacuo, and the residue was suspended in a mixture of ether and acetone, removing the insoluble material by filtration. The filtrate was concentrated in vacuo to give the title compound as a pale brown gum (14.5 g, 88.3 mmol, 88%); δH [2H6]DMSO 7.93 (1H,br t), 7.05 (1H,t), 3.11 (2H,t), 2.97 (2H,t), 2.89 (3H,s), 2.09 (3H,s).

reactant | N-Acetylethylenediamine | 100 mmol, 10.2 g | C(C)(=O)NCCN | C4H10N2O
reactant | triethylamine | 108 mmol, 15 ml, 10.9 g | C(C)N(CC)CC | C6H15N
reactant | Methanesulphonyl chloride | 103 mmol, 8 ml, 11.8 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-[2-(Methanesulphonamido)ethyl]acetamide | 88.3 mmol, 14.5 g, 88% | CS(=O)(=O)NCCNC(C)=O | C5H12N2O3S
